US06815458B2
2-(4-Methoxyphenyl)-N-(4-methylbenzyl)-N-(1-methylpiperidin-4-yl) acetamide (50ELH27)
Methanol (50 ml) was added to an Erlenmeyer flask and acetic acid was added under stirring until pH 5. Methylbenzylamine (1.0 g, 8.8 mmol) and 1-Methyl-4-piperidone (1.1 g, 8.8 mmol) were added to a 100 ml round-bottomed flask and dissolved in the methanol/acetic acid (40 ml) solution previously made. The reaction mixture was stirred for 5 min and NaCNBH3 (0.83 g, 13.2 mmol) was added slowly under stirring. After 20 hours the reaction was concentrated and transferred to a separatory funnel containing dichloromethane and distilled water. The aqueous phase was made basic by addition of Na2CO3. The aqueous phase was extracted twice with dichloromethane. The combined organic layers were collected and dried with Na2SO4. Concentration afforded the title compound. Yield (crude): 98%. UV/MS 89/88 (M30 353), tr (A, MS) 3.982.

reactant | Methanol | 50 ml | CO | CH4O
reactant | Methylbenzylamine | 8.8 mmol, 1.0 g | CNCC1=CC=CC=C1 | C8H11N
reactant | 1-Methyl-4-piperidone | 8.8 mmol, 1.1 g | CN1CCC(CC1)=O | C6H11NO
reactant | NaCNBH3 | 13.2 mmol, 0.83 g | [BH3-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol acetic acid | 40 ml | CO.C(C)(=O)O
product | 2-(4-Methoxyphenyl)-N-(4-methylbenzyl)-N-(1-methylpiperidin-4-yl) acetamide | COC1=CC=C(C=C1)CC(=O)N(C1CCN(CC1)C)CC1=CC=C(C=C1)C | C23H30N2O2
